* Netlist
* sin (0 100 50 0 0 ) -> Sine wave with 0 offset 100v peak value 50Hz 0 delay 0 decay

.include usr_model.sub

V1 a 0 sin(0 100 50 0 0)
* D1 anode cathode
D1 a c dmodel
R1 c b 10
R2 b 0 10