* Title : Simple Attenuator Circuit

*Netlist
V1 a 0 60V
R1 a b 20
R2 b 0 10

* Control commands
.control
* op - Operating point
op
print v(a) v(b) v(a,b) i(v1)
* print all parameters 
print all 
.endc