* Title Half wave rectifier

* Netlist
* While calling a subcircuit the first letter should be x or X
V1 a 0 sin(0 100 50 0 0)
xD1 a c pwrdiode
R1 c b 10
R2 b 0 10

.include pwrdiode.sub