* Power Diode Subcircuit
* Subcircuit
.subckt pwrdiode A K
    DX A K dmod
    RX A M 10k
    CX M K 0.01uF
.ends

* Model
.model dmod D(Rs=0.01, CJO = 100pF)